### ISSUE TITLE
Smt translation error for Axiom types, Opaque types and Inductive datatypes with no constructors

### ISSUE THREAD

**Issue by etiennejf** [input-output-hk/Lean-blaster#262]
## The smt translation does not properly handle Inductive datatypes having no constructors

For instance, 
```
inductive DigestOne : Type
axiom digestOneSize : DigestOne → Int

-- Valid expected as does not have any Inhabited/NonEmpty instance
example : ∀ (d : DigestOne), digestOneSize d > 0 := by blaster
```
Blaster triggers the following error:
```
 Unexpected smt error: (error "line 8 column 30: invalid datatype declaration, datatype does not have any constructors")
 for (declare-datatype @DigestOne ())
```

Inductive datatypes with no constructors should be represented as abstract sorts at the smtlib level and should be considered as not admitting any element.

## The smt translation does not proplery handle types declared as Axiom/Opaque
For instance,
```
axiom DigestThree : Type

axiom digestThreeSize : DigestThree → Int

example : ∀ (d : DigestThree), digestThreeSize d > 0 := by blaster

opaque DigestFour : Type
axiom digestFourSize : DigestFour → Int

example : ∀ (d : DigestFour), digestFourSize d > 0 := by blaster
```
Blaster triggers the following errors
```
translateNonOpaqueType: inductive info expected for DigestThree

translateNonOpaqueType: inductive info expected for DigestFour
```

Axiom/Opaque type should be resolved and handled as typical sort types.
